US06492383B1
To a mixture of 4-nitro-fluorobenzene (250 mg, 1.77mmol) and 3-methyl aniline (190 mg, 1.77mmol) in 4 mL of water in a sealed tube was added magnesium oxide (86 mg, 2.126 mmol). The suspension was stirred at 200° C. for 2 days. The reaction was cooled to ambient temperature and the suspension was diluted with water and filtered to remove insoluble material. The aqueous layer was extracted 3 times with ethyl acetate (50 mL) and the combined organic layers were washed with boronic acid (5%, 50 mL) and water, dried over magnesium sulfate and concentrated in vacuo to provide (4-Nitro-phenyl)-m-tolyl-amine (190 mg, 47% yield). ). RP18-HPLC RT: 7.020 minutes; API MS: 229.20 (M+1).

reactant | 4-nitro-fluorobenzene | 1.77mmol, 250 mg | [N+](=O)([O-])C1=CC=C(C=C1)F | C6H4FNO2
reactant | 3-methyl aniline | 1.77mmol, 190 mg | CC=1C=C(N)C=CC1 | C7H9N
reactant | magnesium oxide | 2.126 mmol, 86 mg | [O-2].[Mg+2]
solvent | water | 4 mL | O | H2O
product | (4-Nitro-phenyl)-m-tolyl-amine | 190 mg, 47% yield | [N+](=O)([O-])C1=CC=C(C=C1)NC=1C=C(C=CC1)C | C13H12N2O2
